2126-08-16 11:25:00 Physician Attending Progress Note
Chief Complaint: hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Right sided neck mass (SCCa) undergoing biopsy yesterday to search for
   primary source; complicated by hematemesis.  Concern for aspiration.
   NSAID use.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2126-8-15**] 03:25 PM
 NASAL SWAB - At [**2126-8-15**] 09:51 PM
 ARTERIAL LINE - START [**2126-8-16**] 03:41 AM
   HCT drifted down 33 - 30 - 28; transfused 1 u pRBCs.
   Relative hypotensive with SBP high 80's, low 90's
   Received 250 cc IV boluses with good response; x 4 overnight.
   Measured autoPEEP in this setting which was ~2
   Propofol continued; fentanyl added for pain
   Kept NPO; help po meds
   GI repeated endoscopy - still unable to wash off adherent clot
   More awake this am, tolerating pressure support
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-8-16**] 10:19 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2126-8-15**] 06:00 PM
   Pantoprazole (Protonix) - [**2126-8-16**] 02:37 AM
   Fentanyl - [**2126-8-16**] 09:30 AM
   Propofol - [**2126-8-16**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-8-16**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 100 (92 - 113) bpm
   BP: 114/62(78) {88/46(60) - 138/70(91)} mmHg
   RR: 14 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,607 mL
                                                                  1,864 mL
   PO:
           TF:
   IVF:
                                                                  2,607 mL
                                                                  1,514 mL
   Blood products:
   350 mL
   Total out:
                                                                    855 mL
                                                                    735 mL
   Urine:
                                                                    355 mL
                                                                    495 mL
   NG:
   240 mL
   Stool:
   Drains:
   Balance:
                                                                  1,752 mL
                                                                  1,129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 430 (430 - 430) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/58/96.[**Numeric Identifier 7**]/29/4
   Ve: 7.6 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: right neck mass; dressing in place clean and dry; stitches
   in tact
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : occasional, Diminished:
   ), prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, writing; answering
   questions; requesting removal of ETT
   Labs / Radiology
   9.5 g/dL
   222 K/uL
   118 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   11 mg/dL
   104 mEq/L
   140 mEq/L
   29.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2126-8-15**]  03:33 PM
                             [**2126-8-15**]  08:04 PM
                             [**2126-8-15**]  09:55 PM
                             [**2126-8-16**]  12:38 AM
                             [**2126-8-16**]  04:44 AM
                             [**2126-8-16**]  05:01 AM
   WBC
   14.5
   10.7
   Hct
   30.7
   29.6
   28.4
   29.3
   Plt
   242
   222
   Cr
   0.7
   0.5
   TropT
   <0.01
   TCO2
   33
   34
   Glucose
   178
   118
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:106/3/<0.01, ALT / AST:27/30, Alk Phos / T Bili:105/0.2,
   Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:1.7 %, Eos:0.4 %, Lactic
   Acid:1.9 mmol/L, Albumin:3.6 g/dL, LDH:387 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR:  more prominent vessels on right
   Assessment and Plan
 HYPOTENSION (NOT SHOCK):  Transient in the OR, transiently on
   pressors. Hemodynamically stable in ICU overnight.
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH):  Remains intubated given hematemesis x 2.  No
   further evidence of active bleeding.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  In anticipation of extubation will give 20 mg
   IV lasix given positive fluid balance and likely increased venous
   return when coming off positive pressure in a patient with known
   underlying severe COPD.
 HEMATEMESIS (UPPER GI BLEED, UGIB):  Most likely source seems to be
   GI.  Still unable to visualize given adherent clot.  Recommendation per
   GI is to continue PPI, extubate when awake, follow serial hcts.  Guaiac
   stools.
 ANEMIA SECONDARY TO BLOOD LOSS:  As above.
 HIV:  Holding po meds for now.  Reassured family and patient that
   missing few doses in light of recent GIB is preferable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-8-15**] 04:00 PM
   20 Gauge - [**2126-8-15**] 04:57 PM
   Arterial Line - [**2126-8-16**] 03:41 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2126-08-17 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2126-8-16**] 04:00 PM
   - GI recs: saw patient yesterday, d/c NG tube, repeat EGD yesterday,
   saw clot and no bleeding,could not remove clot and see below; can
   extubate her, advance diet to clears today, continue IV PPI, follow H/H
   - switched to PSV
   - Hct [**Hospital1 **], 12noon Hct stable,
   - diuresis with Lasix 20mg IV x 2
   - did not restart HIV PO meds bc still intubated, spoke to patient
   HIV physician today, he confirmed that this is ok until extubation
   - ENT recs: nothing new, stitches are reabsorbable
   - spiked a fever to 101.5 -> cultures sent, ordered CXR, started
   Levoquin, Vanc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-8-16**] 06:03 PM
   Vancomycin - [**2126-8-16**] 07:30 PM
   Levofloxacin - [**2126-8-16**] 09:04 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-8-16**] 02:02 PM
   Propofol - [**2126-8-17**] 01:05 AM
   Fentanyl - [**2126-8-17**] 04:04 AM
   Furosemide (Lasix) - [**2126-8-17**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-17**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38
C (100.4
   HR: 94 (87 - 120) bpm
   BP: 93/53(68) {87/46(60) - 128/71(88)} mmHg
   RR: 14 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,641 mL
                                                                    161 mL
   PO:
             TF:
   IVF:
                                                                  2,291 mL
                                                                    161 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,475 mL
                                                                    188 mL
   Urine:
                                                                  2,235 mL
                                                                    188 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    166 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 317 (317 - 430) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 41 cmH2O
   Plateau: 20 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/62/120/31/8
   Ve: 7.5 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Intubated, appears comfortable,  no acute distress,
   communicates by writing on the clipboard
   HEENT: Sclera anicteric, ETT in place, dried blood in nares
   Neck: Enlargement of right side of neck, hard mass appreciated,
   dressing in place clean/dry/intact
   Lungs: Occasional rales scattered throughout anteriorly, no rhonchi,
   prolonged expiratory phase
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: Foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Neuro: moving extremities equally
   Labs / Radiology
   226 K/uL
   9.3 g/dL
   104 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   11 mg/dL
   100 mEq/L
   139 mEq/L
   27.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2126-8-15**]  09:55 PM
                             [**2126-8-16**]  12:38 AM
                             [**2126-8-16**]  04:44 AM
                             [**2126-8-16**]  05:01 AM
                             [**2126-8-16**]  12:02 PM
                             [**2126-8-16**]  04:57 PM
                             [**2126-8-16**]  06:01 PM
                             [**2126-8-16**]  07:05 PM
                             [**2126-8-16**]  08:33 PM
                             [**2126-8-17**]  03:54 AM
   WBC
   10.7
   10.2
   Hct
   29.6
   28.4
   29.3
   29.3
   28.8
   27.6
   Plt
   222
   226
   Cr
   0.5
   0.6
   0.5
   TCO2
   34
   38
   32
   37
   Glucose
   118
   119
   104
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:106/3/<0.01, ALT / AST:27/30, Alk Phos / T Bili:105/0.2,
   Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:1.7 %, Eos:0.4 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.6 g/dL, LDH:387 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   U/A: [**8-16**]: negative
   Urine Culture: ([**8-16**]): pending
   Blood Culture ([**8-16**], [**8-17**]): pending
   Sputum Culture: ([**8-16**]): gram stain: 25 PMNs, <10 epi cells, 2+ budding
   yeast
   CXR: ([**8-17**]): my read, bibasilar opacities and effusions
   Assessment and Plan
   Ms. [**Known lastname **] is a 55 year old female with past medical history of HIV and
   COPD, who presents to the [**Hospital Unit Name 4**] for further management of hematemesis
   after biopsy of right neck mass and tonsil.  Hemodynamically stable.
   .
   #) Respiratory failure:  Intubated for both airway protection and for
   further evaluation of bleeding etiology. Although she does have large
   right-sided neck mass, there is no evidence of airway compresion on
   imaging or direct observation during ENT surgery. There was initially
   concern for bleeding in the airway, however it appears that clotted
   blood seen by IP team during bronchoscopy was more likely due to
   aspiration of bleeding from tonsils or GI source.
   - Currently doing well on PS, will plan to extubate later this
   afternoon.  Given history of prior difficult reintubation, will need to
   contact anesthesia to be present for extubation
   - Lasix 20mg IV x 1 now, need to diurese her before attempting to
   extubate as pt is volume overloaded which makes extubation difficult in
   this chronic COPDer
   - Continue home COPD medications, no evidence of exacerbation at
   present (Advair, Albuterol, Spiriva)
   .
   #) Hematemesis: Per GI, the repeat EGD again showed the clot in the
   cadia, still cannot dislodge the clot in her gastric antrum with
   copious irrigation. No active bleeding noted. Unclear what, if any,
   symptoms patient may have had prior to hematemesis. Per ENT team and
   outpatient pulmonary notes, she had been taking ibuprofen (800 mg TID
   per family she has been taking ibuprofen 800mg [**Hospital1 **]), so this would put
   her at higher risk for peptic ulcer disease and gastritis. She is also
   being worked up for SCC malignancy, which would be rare in the stomach,
   however she could have esophageal SCC (though nothing reported on EGD
   in esophagus). Other possibilities include AVM or Dieulfoy's lesion.
   Per GI team, it does not appear that the clot noted in her stomach was
   from tonsilar or upper respiratory tract source.
   - Follow HCT's [**Hospital1 **]
   - continue [**Hospital1 **] IV PPI
   - can advance to clear liquids later today after extubation
   - Keep NG tube to low intermittent suction, per discussion with GI,
   mainly to monitor for new or recurrent bleeding
   - Should patient demonstrate evidence of bleed, will call GI urgently,
   however would likely need IR embolization first
   - Patient currently with two 20 gage IV, one 18.
   .
   #) fever: concern given cessation of HIV meds.  Will continue
   levoquin/vanc until cultures return.
   .
   #) Right-sided neck mass: biopsy report showed SCC, unknown primary.
   Being followed by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] in oncology
   - F/u with oncology and ENT teams
   - Continue antibiotics per ENT for now
   - per ENT, sutures are absorbable
   - Pain control with diluadid q3H PRN, fentanyl on ventilator
   .
   #) HIV: CD4 in [**12-14**] was 584.  In [**4-13**] was 543.  Continue home
   medications, however there are no IV substitutes.. Last viral load was
   undetectable.
   - per Dr. [**Last Name (STitle) **], patient is ok to miss [**First Name (Titles) 8843**] [**Last Name (Titles) 8844**] until
   extubated
   .
   #) COPD: As discussed above in respiratory failure, continuing home
   medications. Per outpatient notes, patient has been referred for lung
   transplant evaluation.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  no insulin currently
   Lines:
   18 Gauge - [**2126-8-15**] 04:00 PM
   20 Gauge - [**2126-8-15**] 04:57 PM
   Arterial Line - [**2126-8-16**] 03:41 AM
   Prophylaxis:
   DVT: Pneumoboots (no heparin SQ for now given bleeding)
   Stress ulcer: [**Hospital1 **] PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Daughter [**Name (NI) 8797**] [**Known lastname **] ([**Telephone/Fax (1) 8798**], children
   updated at bedside
   Code status: Full code
   Disposition: ICU

2126-08-17 11:32:00 Physician Attending Progress Note
Chief Complaint: Hematemesis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.5
F - [**2126-8-16**] 04:00 PM
   -Diuresis with Lasix x1 yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-8-16**] 06:03 PM
   Levofloxacin - [**2126-8-16**] 09:04 PM
   Vancomycin - [**2126-8-17**] 09:11 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-8-16**] 02:02 PM
   Propofol - [**2126-8-17**] 01:05 AM
   Furosemide (Lasix) - [**2126-8-17**] 06:10 AM
   Fentanyl - [**2126-8-17**] 07:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-17**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.2
   HR: 102 (87 - 120) bpm
   BP: 140/63(58) {140/63(58) - 140/63(58)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,641 mL
                                                                    443 mL
   PO:
             TF:
   IVF:
                                                                  2,291 mL
                                                                    443 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,475 mL
                                                                  1,678 mL
   Urine:
                                                                  2,235 mL
                                                                  1,678 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    166 mL
                                                                 -1,235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 536 (317 - 536) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.37/62/120/31/8
   Ve: 7.5 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   226 K/uL
   104 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   11 mg/dL
   100 mEq/L
   139 mEq/L
   27.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2126-8-15**]  09:55 PM
                             [**2126-8-16**]  12:38 AM
                             [**2126-8-16**]  04:44 AM
                             [**2126-8-16**]  05:01 AM
                             [**2126-8-16**]  12:02 PM
                             [**2126-8-16**]  04:57 PM
                             [**2126-8-16**]  06:01 PM
                             [**2126-8-16**]  07:05 PM
                             [**2126-8-16**]  08:33 PM
                             [**2126-8-17**]  03:54 AM
   WBC
   10.7
   10.2
   Hct
   29.6
   28.4
   29.3
   29.3
   28.8
   27.6
   Plt
   222
   226
   Cr
   0.5
   0.6
   0.5
   TCO2
   34
   38
   32
   37
   Glucose
   118
   119
   104
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:106/3/<0.01, ALT / AST:27/30, Alk Phos / T Bili:105/0.2,
   Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:1.7 %, Eos:0.4 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.6 g/dL, LDH:387 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: ABG-7.37/62/120
   Neck Mass--Invasive SCCA seen on biopsy
   Imaging: CXR-
   LLL atalectasis noted, otherwise unchanged
   Microbiology: Sputum-->25 PMN's, 2+ budding yeast
   Assessment and Plan
   55 yo female with hematemesis following biopsy of neck lesion with
   bronchoscopy and EGD performed to clear bleeding and clot.  At this
   time patient has likely ulcer identified in area of stomach as possible
   source in the stomach for bleeding.  She does have evolution of fever
   and concern for hospital acquired pneumonia is significant in that
   setting.  Overall, she tolerates minimal ventilatory support at this
   time.
   1)Hematemsis-H/O Ibuprofen use at relatively high dosing
   -HCT [**Hospital1 **]
   -Continue PPI IV
   -Diet can advance to clears
   2)Respiratory Failure-Initial intubation was for airway protection in
   the setting of significant bleeding.  She has had continued diuresis
   over past day.  She has had fever and with suggestion of persistence of
   left lower lobe infiltrate but realtively minimal sputum production.
   -Alb/Atrovent
   -Levoflox/Vanco
   -Will need to consider anesthesia presence at the time of extubation
   given failure in past.
   -At this time has reasonable optimization of volume status,  good cuff
   leak and good mental status which makes extubation reasonable to pursue
   with mental status assured
   3)Neck Mass-Biopsy results have returned with Squamous Cell
   -Will discuss with primary teams and consider timing and plan for
   informing patient and consideration of treatment options.
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-8-15**] 04:00 PM
   20 Gauge - [**2126-8-15**] 04:57 PM
   Arterial Line - [**2126-8-16**] 03:41 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Extensive discussion with daughter
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 55 minutes

2126-08-18 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - successfully extubated with anesthesia present at 4PM
   - ENT recs: d/c cefazolin
   - diuresis: lasix 20mg IV X 1 at 11:30AM.  Negative 1876 cc at
   midnight.
   - biopsy results of right neck mass: squamous cell carcinoma
   - f/u cultures
   - spoke to Dr. [**Last Name (STitle) **], patient's HIV physician: [**Name10 (NameIs) **] to hold off on
   antiretrovirals until extubation
   - began atripla in the evening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-8-17**] 10:45 AM
   Vancomycin - [**2126-8-17**] 08:03 PM
   Levofloxacin - [**2126-8-17**] 10:16 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-8-17**] 11:55 AM
   Pantoprazole (Protonix) - [**2126-8-17**] 02:02 PM
   Fentanyl - [**2126-8-17**] 03:00 PM
   Hydromorphone (Dilaudid) - [**2126-8-18**] 05:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-18**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.3
C (99.1
   HR: 99 (97 - 119) bpm
   BP: 115/56(70) {104/44(58) - 153/71(87)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,027 mL
                                                                     73 mL
   PO:
             TF:
   IVF:
                                                                  1,027 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,893 mL
                                                                    350 mL
   Urine:
                                                                  2,893 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,866 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Face tent, Endotracheal tube 12L
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 339 (339 - 339) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 96%
   ABG: 7.39/63/47/34/9
   Ve: 8.8 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General: Intubated, appears comfortable,  no acute distress,
   communicates by writing on the clipboard
   HEENT: Sclera anicteric, ETT in place, dried blood in nares
   Neck: Enlargement of right side of neck, hard mass appreciated,
   dressing in place clean/dry/intact
   Lungs: Occasional rales scattered throughout anteriorly, no rhonchi,
   prolonged expiratory phase
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   GU: Foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Neuro: moving extremities equally
   Labs / Radiology
   226 K/uL
   9.3 g/dL
   106 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.3 mEq/L
   11 mg/dL
   96 mEq/L
   137 mEq/L
   27.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2126-8-16**]  12:02 PM
                             [**2126-8-16**]  04:57 PM
                             [**2126-8-16**]  06:01 PM
                             [**2126-8-16**]  07:05 PM
                             [**2126-8-16**]  08:33 PM
                             [**2126-8-17**]  03:54 AM
                             [**2126-8-17**]  01:58 PM
                             [**2126-8-17**]  05:35 PM
                             [**2126-8-17**]  07:32 PM
                             [**2126-8-18**]  03:48 AM
   WBC
   10.2
   10.2
   Hct
   29.3
   28.8
   27.6
   28.9
   27.8
   Plt
   226
   226
   Cr
   0.6
   0.5
   0.4
   TCO2
   38
   32
   37
   42
   40
   Glucose
   119
   104
   106
   Other labs:
    PT / PTT / INR:12.8/24.0/1.1,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Micro:
   Urine cutlure from [**8-16**]: neg
   Blood culutre from 9/11and [**8-17**]: pending
   Sputum culutre from [**8-16**]: 2+ budding yeast
   Imaging: no CXR today
   Assessment and Plan
   Ms. [**Known lastname **] is a 55 year old female with past medical history of HIV and
   COPD, who presents to the [**Hospital Unit Name 4**] for further management of hematemesis
   after biopsy of right neck mass and tonsil.  Hemodynamically stable.
   .
   #) Respiratory failure:  Intubated for both airway protection and for
   further evaluation of bleeding etiology. Although she does have large
   right-sided neck mass, there is no evidence of airway compresion on
   imaging or direct observation during ENT surgery. There was initially
   concern for bleeding in the airway, however it appears that clotted
   blood seen by IP team during bronchoscopy was more likely due to
   aspiration of bleeding from tonsils or GI source.
   - Currently doing well on PS, will plan to extubate later this
   afternoon.  Given history of prior difficult reintubation, will need to
   contact anesthesia to be present for extubation
   - Lasix 20mg IV x 1 now, need to diurese her before attempting to
   extubate as pt is volume overloaded which makes extubation difficult in
   this chronic COPDer
   - Continue home COPD medications, no evidence of exacerbation at
   present (Advair, Albuterol, Spiriva)
   .
   #) Hematemesis: Per GI, the repeat EGD again showed the clot in the
   cadia, still cannot dislodge the clot in her gastric antrum with
   copious irrigation. No active bleeding noted. Unclear what, if any,
   symptoms patient may have had prior to hematemesis. Per ENT team and
   outpatient pulmonary notes, she had been taking ibuprofen (800 mg TID
   per family she has been taking ibuprofen 800mg [**Hospital1 **]), so this would put
   her at higher risk for peptic ulcer disease and gastritis. She is also
   being worked up for SCC malignancy, which would be rare in the stomach,
   however she could have esophageal SCC (though nothing reported on EGD
   in esophagus). Other possibilities include AVM or Dieulfoy's lesion.
   Per GI team, it does not appear that the clot noted in her stomach was
   from tonsilar or upper respiratory tract source.
   - Follow HCT's [**Hospital1 **]
   - continue [**Hospital1 **] IV PPI
   - can advance to clear liquids today
   - Keep NG tube to low intermittent suction, per discussion with GI,
   mainly to monitor for new or recurrent bleeding
   - Should patient demonstrate evidence of bleed, will call GI urgently,
   however would likely need IR embolization first
   - Patient currently with two 20 gage IV, one 18.
   .
   #) fever: concern given cessation of HIV meds.  Will continue
   levoquin/vanc until cultures return.
   .
   #) Right-sided neck mass: biopsy report showed SCC, unknown primary.
   Being followed by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] in oncology
   - F/u with oncology and ENT teams
   - Continue antibiotics per ENT for now
   - per ENT, sutures are absorbable
   - Pain control with diluadid q3H PRN, fentanyl on ventilator
   .
   #) HIV: CD4 in [**12-14**] was 584.  In [**4-13**] was 543.  Continue home
   medications, however there are no IV substitutes.. Last viral load was
   undetectable.
   - per Dr. [**Last Name (STitle) **], patient is ok to miss [**First Name (Titles) 8843**] [**Last Name (Titles) 8844**] until
   extubated
   .
   #) COPD: As discussed above in respiratory failure, continuing home
   medications. Per outpatient notes, patient has been referred for lung
   transplant evaluation.
   ICU Care
   Nutrition: NPO for now, can advance to clear liquids today
   Glycemic Control:  no insulin
   Lines:
   18 Gauge - [**2126-8-15**] 04:00 PM
   20 Gauge - [**2126-8-15**] 04:57 PM
   Prophylaxis:
   DVT: Pneumoboots (no heparin SQ for now given bleeding)
   Stress ulcer: [**Hospital1 **] PPI
   VAP:  Chlorhexidine
   Comments:
   Communication:  Daughter [**Name (NI) 8797**] [**Known lastname **] ([**Telephone/Fax (1) 8798**], children
   updated at bedside
   Code status: Full code
   Disposition: ICU

2126-08-18 11:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hematemsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2126-8-17**] 04:00 PM
 INVASIVE VENTILATION - STOP [**2126-8-17**] 04:03 PM
 FEVER - 101.8
F - [**2126-8-17**] 12:00 PM
   Extubation without event
   Case discussed with Dr. [**Last Name (STitle) **] and plan to hold anti-retrovirals
   confirmed
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-8-17**] 10:45 AM
   Levofloxacin - [**2126-8-17**] 10:16 PM
   Vancomycin - [**2126-8-18**] 07:38 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-8-17**] 11:55 AM
   Pantoprazole (Protonix) - [**2126-8-17**] 02:02 PM
   Fentanyl - [**2126-8-17**] 03:00 PM
   Hydromorphone (Dilaudid) - [**2126-8-18**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2126-8-18**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.9
C (98.4
   HR: 101 (97 - 119) bpm
   BP: 132/53(71) {104/44(58) - 153/71(87)} mmHg
   RR: 18 (15 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,027 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                  1,027 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  2,893 mL
                                                                    560 mL
   Urine:
                                                                  2,893 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,866 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 339 (339 - 339) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 92%
   ABG: 7.39/63/47/34/9
   Ve: 8.8 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   226 K/uL
   106 mg/dL
   0.4 mg/dL
   34 mEq/L
   4.3 mEq/L
   11 mg/dL
   96 mEq/L
   137 mEq/L
   27.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2126-8-16**]  12:02 PM
                             [**2126-8-16**]  04:57 PM
                             [**2126-8-16**]  06:01 PM
                             [**2126-8-16**]  07:05 PM
                             [**2126-8-16**]  08:33 PM
                             [**2126-8-17**]  03:54 AM
                             [**2126-8-17**]  01:58 PM
                             [**2126-8-17**]  05:35 PM
                             [**2126-8-17**]  07:32 PM
                             [**2126-8-18**]  03:48 AM
   WBC
   10.2
   10.2
   Hct
   29.3
   28.8
   27.6
   28.9
   27.8
   Plt
   226
   226
   Cr
   0.6
   0.5
   0.4
   TCO2
   38
   32
   37
   42
   40
   Glucose
   119
   104
   106
   Other labs: PT / PTT / INR:12.8/24.0/1.1, CK / CKMB /
   Troponin-T:106/3/<0.01, ALT / AST:27/30, Alk Phos / T Bili:105/0.2,
   Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:1.7 %, Eos:0.4 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.6 g/dL, LDH:387 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: SCCA on biopsy
   Microbiology:
   Assessment and Plan
   55 yo female with history of HIV and COPD now admitted with hematemesis
   following biopsy of right neck mask with intubation required.  She with
   careful monitoring for bleeding, continued diuresis and wean of
   sedation has been able to tolerate extubation without event.
   1)Respiratory Failure-
   -OOB to chair
   -Incetive spirometry all desired
   -Will have to wean O2 as possible today
   -Spiriva/Alb/Atr
   -vanco/levoflox
   -Does have clear risk for sleep apnea and would prefer to add low level
   [**Hospital1 **]-level support at night
   -Will maintain negative fluild balance
   2)Neck Mass-
   -SCCA--will need to have staging, treatment planning all completed as
   patient stabilizes from respiratory status
   3)Hematemesis-
   -None further seen
   -Likely local insult at biopsy site
   -Will continue with normalization of coags
   -EGD tomorrow to clarify potential for primary source of malignancy as
   well as concern for possible source of recurrent bleeding
   -[**Hospital1 **] PPI and will be NPO after midnight
   4)HIV-Plans discussed with Dr. [**Last Name (STitle) **]
   [**Name (STitle) 5997**] continue to hold anti-retrovirals at this time
   ICU Care
   Nutrition: Advance to clear diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-8-15**] 04:00 PM
   20 Gauge - [**2126-8-15**] 04:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  45

2126-08-19 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ENT recs: would only advance to as far as softs on post-biopsy day
   10, sutures are absorbable.
   - bx of the right tonsil: no malignancy
   - UOP low at 15cc/2hrs at 11:30pm, given 250cc NS bolus as pt had poor
   PO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-8-17**] 10:45 AM
   Vancomycin - [**2126-8-18**] 08:22 PM
   Levofloxacin - [**2126-8-18**] 10:17 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-8-19**] 02:01 AM
   Furosemide (Lasix) - [**2126-8-19**] 02:01 AM
   Hydromorphone (Dilaudid) - [**2126-8-19**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-19**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 97 (92 - 106) bpm
   BP: 117/53(68) {103/46(67) - 146/88(91)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,040 mL
                                                                     87 mL
   PO:
             TF:
   IVF:
                                                                  1,040 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    985 mL
   Urine:
                                                                  1,765 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -725 mL
                                                                   -898 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///35/
   Physical Examination
   General: no acute distress, on face tent
   Neck: enlarged right neck
   Lungs: occasional rales scattered throughout anteriorly, no rhonchi,
   prolonged expiratory phase
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  obese, soft, non-tender, non-distended, bowel sounds presen
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Labs / Radiology
   265 K/uL
   9.7 g/dL
   113 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.9 mEq/L
   14 mg/dL
   95 mEq/L
   140 mEq/L
   29.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-8-16**]  04:57 PM
                             [**2126-8-16**]  06:01 PM
                             [**2126-8-16**]  07:05 PM
                             [**2126-8-16**]  08:33 PM
                             [**2126-8-17**]  03:54 AM
                             [**2126-8-17**]  01:58 PM
                             [**2126-8-17**]  05:35 PM
                             [**2126-8-17**]  07:32 PM
                             [**2126-8-18**]  03:48 AM
                             [**2126-8-19**]  04:04 AM
   WBC
   10.2
   10.2
   9.2
   Hct
   28.8
   27.6
   28.9
   27.8
   29.1
   Plt
   [**Telephone/Fax (3) 8871**]
   Cr
   0.6
   0.5
   0.4
   0.5
   TCO2
   38
   32
   37
   42
   40
   Glucose
   119
   104
   106
   113
   Other labs:
   PT / PTT / INR:13.3/23.2/1.1,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Micro:
   Urine cutlure from [**8-16**]: neg
   Blood culture from 9/11and [**8-17**]: pending
   Sputum culutre from [**8-16**]: 2+ budding yeast
   CXR (my read):
   Assessment and Plan
   Ms. [**Known lastname **] is a 55 year old female with past medical history of HIV and
   COPD, who presents to the [**Hospital Unit Name 4**] for further management of hematemesis
   after biopsy of right neck mass and tonsil.  Hemodynamically stable.
   .
   #) Respiratory distress: Extubated now. Initially intubated for both
   airway protection and for further evaluation of bleeding etiology.
   Although she does have large right-sided neck mass, there is no
   evidence of airway compresion on imaging or direct observation during
   ENT surgery. There was initially concern for bleeding in the airway,
   however it appears that clotted blood seen by IP team during
   bronchoscopy was more likely due to aspiration of bleeding from tonsils
   or GI source. Patient has COPD and appears to be volume overloaded on
   exam.  For her COPD, per outpatient notes, patient has been referred
   for lung transplant evaluation.
   - goal I/O -1L today, lasix IV 20mg x 1 now. Pt is on lasix PO 40mg
   daily at home
   - Continue home COPD medications, no evidence of exacerbation at
   present (Advair, Albuterol, Spiriva)
   .
   #) Hematemesis: Per GI, the repeat EGD again showed the clot in the
   cadia, still cannot dislodge the clot in her gastric antrum with
   copious irrigation. No active bleeding noted. Unclear what, if any,
   symptoms patient may have had prior to hematemesis. Per ENT team and
   outpatient pulmonary notes, she had been taking ibuprofen (800 mg TID
   per family she has been taking ibuprofen 800mg [**Hospital1 **]), so this would put
   her at higher risk for peptic ulcer disease and gastritis. She is also
   being worked up for SCC malignancy, which would be rare in the stomach,
   however she could have esophageal SCC (though nothing reported on EGD
   in esophagus). Other possibilities include AVM or Dieulfoy's lesion.
   Per GI team, it does not appear that the clot noted in her stomach was
   from tonsilar or upper respiratory tract source.
   - Follow HCT daily
   - pt refused EGD today, will defer to next day or so
   - continue [**Hospital1 **] IV PPI
   - can advance to clear liquids today
   - Should patient demonstrate evidence of bleed, will call GI urgently,
   however would likely need IR embolization first
   - Patient currently with two 20 gage IV, one 18.
   .
   #) Fever: appears to be resolving. Tmax was 100.1. cultures are NTD.
   - will d/c levoquin/vanc
   .
   #) Right-sided neck mass: biopsy report showed SCC, unknown primary.
   Awaiting tonsil biopsy result, will be back next week (one week after
   bx). Being followed by [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] in oncology.  The sutures on right
   tonsil are absorbable per ENT.
   - ENT recs: remove dressing, open air
   - Onc recs: spoke to pt re: squamous cell ca in neck biopsy.
   Considering induction therapy, however, complicated bc pt is HIV+ with
   reserved bone marrow capacity.
   - Pain control currently with diluadid q3H PRN
   .
   #) HIV: CD4 in [**12-14**] was 584.  In [**4-13**] was 543.  Continue home
   medications, however there are no IV substitutes.. Last viral load was
   undetectable.
   - pt missed anti-HIV meds for 3 days as she was intubated. Could not
   take them yesterday bc could not tolerate PO.
   - will attempt again tonight.
   - pt
s HIV doc is following
   .
   #) COPD: As discussed above in respiratory failure, continuing home
   medications.
   .
   #) PT: ordered, encourage activity as tolerated
   ICU Care
   Nutrition: advance to clears today
   Glycemic Control:  no insulin
   Lines:
   20 Gauge - [**2126-8-19**] 04:48 AM
   Prophylaxis:
   DVT: Pneumoboots (no heparin SQ for now given bleeding)
   Stress ulcer: [**Hospital1 **] PPI
   VAP: none
   Comments:
   Communication:  Daughter [**Name (NI) 8797**] [**Known lastname **] ([**Telephone/Fax (1) 8798**], children
   updated at bedside
   Code status: Full code
   Disposition: call out to floor today

2126-08-19 12:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Hematemesis
   SCCA
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   -FIO2 weaned further
   -Pain control requirements remain elevated
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-8-17**] 10:45 AM
   Levofloxacin - [**2126-8-18**] 10:17 PM
   Vancomycin - [**2126-8-19**] 08:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-8-19**] 02:01 AM
   Furosemide (Lasix) - [**2126-8-19**] 02:01 AM
   Hydromorphone (Dilaudid) - [**2126-8-19**] 09:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2126-8-19**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98.1
   HR: 83 (83 - 106) bpm
   BP: 111/62(74) {98/46(56) - 146/88(91)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 105.5 kg
   Height: 66 Inch
             Total In:
                                                                  1,040 mL
                                                                    330 mL
   PO:
             TF:
   IVF:
                                                                  1,040 mL
                                                                    330 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                  1,085 mL
   Urine:
                                                                  1,765 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -725 mL
                                                                   -755 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   265 K/uL
   113 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.9 mEq/L
   14 mg/dL
   95 mEq/L
   140 mEq/L
   29.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-8-16**]  04:57 PM
                             [**2126-8-16**]  06:01 PM
                             [**2126-8-16**]  07:05 PM
                             [**2126-8-16**]  08:33 PM
                             [**2126-8-17**]  03:54 AM
                             [**2126-8-17**]  01:58 PM
                             [**2126-8-17**]  05:35 PM
                             [**2126-8-17**]  07:32 PM
                             [**2126-8-18**]  03:48 AM
                             [**2126-8-19**]  04:04 AM
   WBC
   10.2
   10.2
   9.2
   Hct
   28.8
   27.6
   28.9
   27.8
   29.1
   Plt
   [**Telephone/Fax (3) 8871**]
   Cr
   0.6
   0.5
   0.4
   0.5
   TCO2
   38
   32
   37
   42
   40
   Glucose
   119
   104
   106
   113
   Other labs: PT / PTT / INR:13.3/23.2/1.1, CK / CKMB /
   Troponin-T:106/3/<0.01, ALT / AST:27/30, Alk Phos / T Bili:105/0.2,
   Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:1.7 %, Eos:0.4 %, Lactic
   Acid:0.5 mmol/L, Albumin:3.6 g/dL, LDH:387 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-Good preservation of lung volumes in the post extubated
   state--small bilateral atelectasis and infiltrates.
   Microbiology: Cultures--NGTD
   Assessment and Plan
   55 yo female with concerning neck mass, now s/p biopsy with squamous
   cell CA seen on pathology.  Procedure was complicated by some
   significant bleeding with concern for GI as well as upper airway source
   and patient now has tolerated extubation without event and has not had
   recurrent evidence of bleeding.
   1)Respiratory Failure-Patient extubated has remained on reasonable
   continued wean of FIO2
   -OOB to chair
   -Will need to mobilize for improved recruitment of lung function
   -Albuterol nebs q 4 hours/Advair to continue
   -Ambulation is most important part of continued progress for her
   today
   2)Squamous Cell Carcinoma--primary not clear as neck mass did not
   appear to be associated with mucosal surface.
   -Sutures absorbable and to remain
   -Has tonsil that appears uninvolved but with significant neck lesion
   confirmed.
   3)Hematemsis/ANemia Secondary To Blood Loss-
   -GI to perform EGD in follow up to further define possibility of
   primary GI source for bleeding--would favor waiting for EGD with
   patient showing continued clinical improvement in respiratory status
   and with patient refusal
   -No further evidence of bleeding seen
   -INR has been normalized
   4)HIV-
   -Medications ordered but patient unable to take
   -Will work to control nausea
   Additional issues to be addressed as defined in the housestaff note of
   this date
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
she is not able to identify
   source, describes overall ache in body, back, stomach and will use
   local Rx with Lidocaine to minimize impact upon respiratory drive and
   capacity to remain extubated.
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-8-19**] 04:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes